US08809529B2
5,5,5-trifluoro-2-oxopentanoic acid.
Ethyl 4,4,4-trifluorobutyrate (1 g, 5.88 mmol) and diethyl oxalate (3.87 g, 26.5 mmol) was dissolved in ethanol. Sodium ethoxide (21% in ethanol, 2.09 g) was added to the solution, and the reaction mixture stirred for 0.5 hrs. Solvent was distilled, and the residue extracted with EtOAc/water. The organic layers were collected and dried over sodium sulfate. After filtration, solvent was removed to give a clear liquid. MS (ESI): m/z 269.1 (M−1). The liquid was then dissolved in 3N HCl (20 mL), and the reaction mixture refluxed for 4 hrs. After cooling down, the reaction mixture was extracted with EtOAc. The organic layers were collected and dried over sodium sulfate. After filtration, solvent was removed, and the residue used directly in the next step. MS (ESI): m/z 169.7 (M−1).

reactant | Ethyl 4,4,4-trifluorobutyrate | 5.88 mmol, 1 g | FC(CCC(=O)OCC)(F)F | C6H9F3O2
reactant | diethyl oxalate | 26.5 mmol, 3.87 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Sodium ethoxide | 2.09 g | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | HCl | 3N, 20 mL | Cl | ClH
product | 5,5,5-trifluoro-2-oxopentanoic acid | FC(CCC(C(=O)O)=O)(F)F | C5H5F3O3
